US06924376B2
d) 2-[(R)-1-(4-Aminomethyl-2-p-tolyl-imidazol-1-yl)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one
To N-{1-[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-chromen-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-ylmethyl}-phthalimide (0.50 g, 0.78 mMol) in EtOH (15 mL) was added hydrazine monohydrate (0.12 mL, 2.5 mMol). The reaction was stirred at RT for 72 h, filtered through a pad of Celite® to remove the insoluble precipitate, rinsed with EtOH and evaporated to dryness. Purification by flash chromatography on silica gel [5-10% (5% NH4OH in MeOH)/CH2Cl2] gave the title compound (364 mg, 91%) as a white solid foam: 1H NMR (400 MHz, CDCl3) δ 8.14 (d, J=8.6 Hz, 1H), 7.63 (d, J=1.8 Hz, 1H), 7.37 (m, 6H), 7.15 (m, 3H), 6.71 (d, J=1.7 Hz, 1H), 6.69 (s, 1H), 5.00 (d, J=10.9 Hz, 1H), 4.07 (d, J=15.5 Hz, 1H), 3.92 (d, 1H), 3.88 (d, 1H), 2.72 (br s, 2H), 2.65 (m, 1H), 2.49 (s, 3H), 2.48 (d, J=15.5 Hz, 1H), 0.93 (d, J=6.6 Hz, 3H), 0.30 (d, J=6.7 Hz, 3H); MS (ES) m/e 512.2 (M+H)+.

reactant | N-{1-[(R)-1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-chromen-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-ylmethyl}-phthalimide | 0.78 mMol, 0.50 g | C(C1=CC=CC=C1)C1C(OC2=CC(=CC=C2C1=O)Cl)[C@@H](C(C)C)N1C(=NC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=C(C=C2)C | C39H34ClN3O4
reactant | hydrazine monohydrate | 2.5 mMol, 0.12 mL | O.NN
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-[(R)-1-(4-Aminomethyl-2-p-tolyl-imidazol-1-yl)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one | 364 mg, 91% | NCC=1N=C(N(C1)[C@H](C(C)C)C=1OC2=CC(=CC=C2C(C1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C | C31H30ClN3O2
